US08703815B2
(E)-3-(4-hydroxy-3,5-dimethylstyryl)-N-propylbenzamide (B1)
To a solution of (E)-3-(4-(methoxymethoxy)-3,5-dimethylstyryl)benzoic acid (0.1 g, 0.32 mmol), EDC (0.125 g, 0.64 mmol), 1-hydroxy-7-azabenzo-triazole (HOAT; 87.1 mg, 0.64 mmol), and DMAP (7.8 mg, 0.064 mmol) in 2 mL of DMF was added propylamine (54 μL, 0.64 mmol) at room temperature. The reaction mixture was stirred overnight (about 18 hours) and diluted with EtOAc. The solution was washed with brine and dried with Na2SO4. The solution was filtered and concentrated.

reactant | (E)-3-(4-(methoxymethoxy)-3,5-dimethylstyryl)benzoic acid | 0.32 mmol, 0.1 g | COCOC1=C(C=C(/C=C/C=2C=C(C(=O)O)C=CC2)C=C1C)C | C19H20O4
reactant | EDC | 0.64 mmol, 0.125 g
reactant | 1-hydroxy-7-azabenzo-triazole | 0.64 mmol, 87.1 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | propylamine | 0.64 mmol, 54 μL | C(CC)N | C3H9N
catalyst | DMAP | 0.064 mmol, 7.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-3-(4-hydroxy-3,5-dimethylstyryl)-N-propylbenzamide | OC1=C(C=C(/C=C/C=2C=C(C(=O)NCCC)C=CC2)C=C1C)C | C20H23NO2
